Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
exertional neck pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization with angioplasty and stenting

 
History of Present Illness:
The patient is a ___ year old woman with history of HTN, 
hyperlipidemia, and diet controlled diabetes who presented 
intially to ___ on ___ after having 1 week of 
exertional angina. She was having pain in the neck and shoulders 
after walking 2 flights of stairs at a time. She had no 
shortness of breath, diaphoresis, or palpitations during each 
event.  
  
She ruled out for MI. She underwent cardiac catheterization and 
was found to have an 80% proximal LAD lesion and a 40-50% distal 
stenosis of her OM. The LCx had 40-50% distal lesion. The RCA 
and LMCA were normal. LVEF was normal. RHC revealed normal 
pressures. For the intervention, the patient was transferred to 
___.  
  
During the intervention the LAD lesion was stented however a 
linear density was seen that was ultimately thought to be due to 
eccentric calcification and not dissection. 2 DES were placed in 
the LAD and 1 DES was placed in LCX for a 70% distal lesion. 
During the procedure she developed neck/throat pain and 
intermittently had a LBBB on her EKG. She was started on a NTG 
drip and the case was completed as planned.  
 
Of note the patient had recently stopped her lipitor (myalgias 
and myositis) and HCTZ. She states that she recently started to 
be evaluated by her PCP for anemia which so far has only shown 
hypothyroidism. She was recently prescribed thyroid replacement 
but has not yet started the prescription.  
  
On review of symptoms, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
She denies exertional buttock or calf pain other than when on 
lipitor. All of the other review of systems were negative.  
  
*** Cardiac review of systems is notable for absence of current 
chest pain, dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
hypertension  
hyperlipidemia  
diabetes mellitus type 2 (diet controlled)  

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. Mother died of heart disease in her ___. Father 
died of heart disease in his ___. 
 
Physical Exam:
VS: T 97.8 , BP 131/69, HR 65, RR 15, O2 100% on 2L  
Gen: obese middle aged woman in NAD, resp or otherwise. Oriented 
x3. Mood, affect appropriate. Pleasant.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: Supple with JVP flat with patient flat.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No S4, no S3.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheeze, 
rhonchi.  
Abd: Obese, soft, NTND, No HSM or tenderness. No abdominial 
bruits.  
Ext: No c/c/e. No femoral bruits. arterial sheath in left 
femoral artery  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
Pulses:  
Right: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ DP 
 
Left: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ DP  


 
Pertinent Results:
EKG demonstrated (___) sinus rhythm at 65 bpm nl axis and 
intervals no significant ST-T wave changes  
  
___: post-PCI: sinus @65 with PR prolongation. nl axis. LBBB. 
 
  
TELEMETRY demonstrated: sinus rhythm with nl axis and intervals 
with periods of sinus rhythm with wide complex and leftward axis 
(LBBB morphology)    
 
CARDIAC CATH performed at ___ on ___ demonstrated:  
80% ___ LAD  
40-50% distal OM  
LMCA and RCA were normal.  
LCX 40-50% distal lesion  
RA ___  
RV ___  
PA ___  
PCW ___  
AO ___  
LV 108/14  
 
___: ___  
Right dominant system  
LMCA no apparant disease  
LAD 80% proximal lesion involving the D1 which had moderate 
ostial disease  
LCx: 70% distal lesion supplying 2 OMs  
PCI: LAD with 2 overlapping Cypher stents, LCX with 1 Cypher 
stent. Linear density seen at the distal edge of first LAD stent 
felt likely to represent eccentric calcium and not dissection.  
Optiray: 370cc  
angiomax was given during the procedure.  
  
Imaging:CXR ___ - clear lungs. no active process  
  
LABORATORY DATA:  
OSH records  
___ - CBC 6.7>27.1<179 MCV 83 RDW 15  
___ - chem 7  
Na 136 K 4.1 Cl 105 CO2 23 BUN 29 Cr 1.3 Glu 105  
Ca 9.7 alb 3.5 ALK 88 AST 21 ALT 23 tpro 7.3  
CPK 167 MB 2.1  
TnI 0.01  

___ 02:46PM BLOOD CK(CPK)-529*
___ 05:56AM BLOOD CK(CPK)-368*
___ 05:35AM BLOOD CK-MB-36* MB Indx-10.5* cTropnT-0.20*
___ 05:56AM BLOOD CK-MB-18* MB Indx-4.9 cTropnT-0.50*

___ 05:35AM BLOOD Triglyc-385* HDL-34 CHOL/HD-5.5 
LDLcalc-76
___ 05:35AM BLOOD TSH-15*
___ 05:35AM BLOOD Free T4-0.74*
___ 05:35AM BLOOD calTIBC-298 VitB12-___ Folate-9.0 
Ferritn-393* TRF-229

Echo ___
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with akinesis of the basal 
inferior septum, and hypokinesis of the basal inferio wall and 
mid-inferior septum (RCA territory). The remaining segments 
contract normally (LVEF = 50-55%). Right ventricular chamber 
size and free wall motion are normal. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension. There is a trivial/physiologic 
pericardial effusion.

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild pulmonary hypertension.
 
Brief Hospital Course:
In brief the patient is a ___ year old woman with history of 
hypertension, hyperlipidemia who was referred for elective PCI 
following developing progressive exertional angina.

#CAD: The patient is a ___ year old woman with history of HTN, 
hyperlipidemia, diet controlled DM2 presenting for PCI c/b 
intermittent LBBB and anginal equivalent.  
Patient initially presented to OSH with exertional angina found 
to have signficant 2 vessel disease that is now s/p PCI with 
stent placement. The patient is was symptom free immediately 
following angioplasty with intermittent LBBB on EKG. Transfered 
from OSH due to concern regarding LBBB and concern that LAD had 
dissected during stent placement.  Patient initially had some 
nausea, chest pressure and headache following arrival in CCU, 
but EKG was unchanged from pre-cath EKG (no LBBB) and symptoms 
resolved with anti-emetics and rest.  Post-cath check was 
unremarkable, and over the next ___ hours of admission the 
patient's cardiac enzymes trended up, peaking at CK 529 and 
Troponin of 0.58.  On ___ the patient had an echo that showed 
a LVEF of 50-55%.  Patient began to ambulate on ___ and 
worked with physical therapy on ___.  Patient was restarted 
on home aspirin and ACE-inhibitor and started on plavix and a 
beta-blocker.  

#Anemia:  Patient was noted to be anemic and was transfused 2 
units packed RBC's on night of admission and on morning 
laboratories found to have an elevated TSH with a suppressed 
free T4, suggesting hypothyroidism as the etiology of her 
anemia, as iron studies, folate and B12 were normal and stool 
guaiacs were negative.  Pt was started on levothyroxine.  

 
Medications on Admission:
ASA 81mg daily  
Quinapril 20mg daily  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*3*
3. Fenofibrate Micronized 48 mg Tablet Sig: One (1) Tablet PO 
daily ().  
4. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual q5minutes as needed for chest pain: if no 
relief with 1 tablet call ___.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
5. Quinapril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
6. Levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
NSTEMI
Hypertension

Secondary:
Obesity
Hyperlipidemia

 
Discharge Condition:
Good. Chest pain free. Stable vital signs. Tolerating oral 
medication and nutrition.

 
Discharge Instructions:
You were admitted for treatment of exertional chest/neck pain.  
You likely suffered a heart attack and you underwent cardiac 
catheterization where we have treated the blockages with 
angioplasty and stenting.  We have found the your thyroid 
function was depressed and we have started you on a medication 
called Levothyroxine to supplement your thyroid.  You will need 
to get follow up thyroid function tests in ___, please 
discuss this with your primary care physician.

Please take your medications as prescribed.

It is very important that you continue to take both your aspirin 
and clopidogrel (Plavix) without missing a dose until your 
cardiologist tells you to stop.  Missing doses could put you at 
risk for a severe heart attack or even death. For now you should 
expect to take these medications for at least one year.

Please attend the recommended follow-up appointments.

If you develop any new or concerning symptoms such as chest 
pain, shortness of breath, severe nausea, or severe bleeding; 
please seek medical attention as soon as possible.
 
Followup Instructions:
___